US07511144B2
Into a solution of 1.50 g (5.24 mmol) of tert-butyl-(4-methanesulfonylphenoxy)dimethylsilane in tetrahydrofuran (30 mL) was dropped, at −78° C. under an atmosphere of argon, 3.1 mL (6.20 mmol) of 2 mol/L lithium diisopropylamide in hexane-heptane-ethylbenzene (available from Aldrich), and stirred for 1 hour. Into this solution, 0.72 mL (6.23 mmol) of 2-methylbenzaldehyde was dropped at −78° C., and stirred for 30 minutes. Ethanol (30 mL) was added to the reaction mixture and stirred for 18 hours. The reaction mixture was concentrated under a reduced pressure. After addition of 1 N hydrochloric acid to the residue, it was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, and the solvent was removed. The obtained residue was purified by medium pressure column chromatography on silica gel (developing solvent: hexane:ethyl acetate=2:1 to 1:1) to obtain 930 mg (yield 60.8%) of 4-(2-hydroxy-2-o-tolylethanesulfonyl)phenol (XXXI-124) as a colorless crystal. Its physical property is shown below.

reactant | tert-butyl-(4-methanesulfonylphenoxy)dimethylsilane | 5.24 mmol, 1.50 g | C(C)(C)(C)[Si](C)(C)OC1=CC=C(C=C1)S(=O)(=O)C | C13H22O3SSi
reactant | lithium diisopropylamide | 6.20 mmol, 2 mol/L, 3.1 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 2-methylbenzaldehyde | 6.23 mmol, 0.72 mL | CC1=C(C=O)C=CC=C1 | C8H8O
reactant | Ethanol | 30 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | hexane heptane ethylbenzene | CCCCCC.CCCCCCC.C(C)C1=CC=CC=C1
product | 4-(2-hydroxy-2-o-tolylethanesulfonyl)phenol | 930 mg, yield 60.8% | OC(CS(=O)(=O)C1=CC=C(C=C1)O)C1=C(C=CC=C1)C | C15H16O4S
